### PR TITLE
MCS: Remove grant right from reply cap

### PR DESCRIPTION
**Pull request by corlewis**
This commit is the corresponding specification and proof updates for https://github.com/seL4/seL4/pull/945, the second alternative described in https://github.com/seL4/rfcs/blob/main/src/active/0130-mcs-grant-reply.md.

The updates to the specifications, abstract invariants and refine proofs are complete. As crefine for MCS is still in progress, I have only updated it as needed to maintain its current state. In particular, this means that I have not proven refinement to the C code for the changes made to `receiveIPC`, since that would require first updating that proof for all of the other unrelated MCS content. `receiveIPC` is a relatively complicated function, so this could be a significant amount of work and should probably be done separately.

Test with: https://github.com/seL4/seL4/pull/945

### CODE REVIEW

File: proof/refine/RISCV64/KHeap_R.thy [hunk 1]
```diff
@@ -4625,6 +4633,174 @@ lemma updateSchedContext_no_stack_update_corres:
...
+lemma no_fail_setReply [wp]:
+  "no_fail (reply_at' p) (setReply p reply)"
+  unfolding setReply_def
+  by (wpsimp simp: objBits_simps)
+
+lemma no_fail_updateReply [wp]:
+  "no_fail (reply_at' rp) (updateReply rp f)"
+  unfolding updateReply_def by wpsimp
+
+lemma setReply_replyPrev_same_corres: (* for reply update that doesn't touch the reply stack *)
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/KHeap_R.thy:4647]: usually we put these comments on the line before

File: proof/refine/RISCV64/KHeap_R.thy [hunk 2]
```diff
@@ -4625,6 +4633,174 @@ lemma updateSchedContext_no_stack_update_corres:
...
+       apply (rule_tac f=f and f'="f'" and Q=Q and Q'=Q'
+                    in setReply_update_corres_Q;
+              simp?)
+      apply (clarsimp simp: obj_at_def)
+     apply fastforce
+    apply wpsimp
+    apply (clarsimp simp: obj_at'_def)
+   apply wpsimp
+  apply wpsimp
+  apply (clarsimp simp: obj_at'_def)
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/KHeap_R.thy:4780]: this pattern is a bit long-winded, any way to shorten it? I guess passing obj_at'_def to wpsimp is probably going to not go where we want, but as this is terminal, maybe a `(wpsimp | ...)+`?

File: proof/refine/RISCV64/Ipc_R.thy [hunk 3]
```diff
@@ -5461,23 +5481,28 @@ lemma receiveIPC_corres:
...
+                                    apply (rule corres_split[OF replyCanGrant_update_corres replyPush_corres])
+                                       apply simp
+                                      apply (clarsimp simp: fault_rel_optionation_def split: option.splits)
+                                     prefer 5 \<comment> \<open> defer wp until corres complete \<close>
+                                     apply (rule setThreadState_corres, simp)
+                                    prefer 5 \<comment> \<open> defer wp until corres complete \<close>
+                                    apply (rule corres_split[OF setThreadState_corres], simp)
+                                      apply (rule possibleSwitchTo_corres, simp)
+                                     apply (wpsimp wp: set_thread_state_valid_sched_action)
+                                    apply wpsimp
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/Ipc_R.thy:5503]: this cascade of wpsimp is also a bit verbose, especially as it's followed by clarsimp

File: proof/refine/RISCV64/Ipc_R.thy [hunk 4]
```diff
@@ -5343,6 +5350,18 @@ crunch ifCondRefillUnblockCheck
   for reply_projs[wp]: "\<lambda>s. P (replyNexts_of s) (replyPrevs_of s) (replyTCBs_of s) (replySCs_of s)"
   (wp: crunch_wps simp: crunch_simps)
 
+lemma replyCanGrant_update_valid_replies'_sc_asrt[wp]:
+  shows "updateReply ptr (replyCanGrant_update f) \<lbrace>valid_replies'_sc_asrt ptr\<rbrace>"
+  apply (rule valid_replies'_sc_asrt_lift; wpsimp wp: updateReply_wp_all)
+    apply (subst opt_map_upd_triv)
+     apply (clarsimp simp: opt_map_def obj_at'_def)
+    apply clarsimp
+   apply (subst opt_map_upd_triv)
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/Ipc_R.thy:5359]: both here and in the previous case, wouldn't `subst opt_map_upd_triv; clarsimp ...` be shorter?

File: proof/invariant-abstract/KHeap_AI.thy [hunk 5]
```diff
@@ -2620,4 +2659,195 @@ lemma update_sched_context_no_fail[wp]:
...
+crunch update_reply
+  for ex_nonz_cap_to[wp]: "ex_nonz_cap_to p"
+  (wp: ex_nonz_cap_to_pres)
+
+lemma update_reply_pred_tcb_at[wp]:
+  "update_reply ptr update \<lbrace>\<lambda>s. P (pred_tcb_at proj f t s)\<rbrace>"
+  by (wpsimp simp: update_reply_def set_object_def get_object_def pred_tcb_at_def obj_at_def)
+
+lemma update_reply_valid_replies[wp]:
+  "update_reply ptr f \<lbrace>valid_replies_pred P\<rbrace>"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/KHeap_AI.thy:2701]: is this proof copied from somewhere else? it uses `hoare_lift_Pf2` instead of `wps`, `wp` over `wpsimp`... looks ancient

**Review by Xaphiosis — APPROVED** [review]
Well done getting this done so quickly, it's been pending for a long while, good to have it cleared. Apologies review took so long.
Apart from small nitpicks (`rt` proofs seem to have more verbosity in places, maybe it's the general vibe on that branch), I have one extra concern: I'm seeing changes to the manual in the corresponding seL4 PR, and some of those descriptions look to originally have been copied from our Haskell spec comments. However, this PR does not change any Haskell or abstract comments, which seems suspicious. Either we never added/changed them for MCS (also not great), or it feels like something should get updated. Thoughts?

File: proof/invariant-abstract/KHeap_AI.thy (hunk 5 above)
Comment (corlewis) [reply proof/invariant-abstract/KHeap_AI.thy:2701]: Yeah, almost all of the `update_reply` lemmas were copied from their equivalent `update_sched_context` versions, in an attempt to minimise the need to think. I'll go through your suggestions and try to apply them, it's always nice to at least not make things worse.

**Comment by corlewis** [comment]
> I'm seeing changes to the manual in the corresponding seL4 PR, and some of those descriptions look to originally have been copied from our Haskell spec comments. However, this PR does not change any Haskell or abstract comments, which seems suspicious. Either we never added/changed them for MCS (also not great), or it feels like something should get updated. Thoughts?

Hmm, I haven't done an exhaustive search but I can't see any equivalent comments in the specifications.

File: proof/refine/RISCV64/KHeap_R.thy (hunk 2 above)
Comment (corlewis) [reply proof/refine/RISCV64/KHeap_R.thy:4780]: I ended up going with `apply (wpsimp | normalise_obj_at' | erule obj_at'_weakenE)+`, as an attempt to make it less likely to go down unintended paths if anything changes.

File: proof/refine/RISCV64/Invariants_H.thy [hunk 6]
```diff
@@ -405,7 +405,7 @@ fun zobj_refs' :: "capability \<Rightarrow> obj_ref set" where
 | "zobj_refs' (NotificationCap r _ _ _)  = {r}"
 | "zobj_refs' (ThreadCap r)              = {r}"
 | "zobj_refs' (SchedContextCap r _)      = {r}"
-| "zobj_refs' (ReplyCap r _)             = {r}"
+| "zobj_refs' (ReplyCap r)             = {r}"
```
Comment (lsf37) [inline proof/refine/RISCV64/Invariants_H.thy:408]: (to keep it aligned)
```suggestion
| "zobj_refs' (ReplyCap r)               = {r}"
```

**Review by lsf37 — APPROVED** [review]
Excellent, and as Raf said this went much quicker than I thought it would. Good work.

I don't think this interferes with anything @michaelmcinerney has in flight, so we should be able to merge after squashing.

File: spec/abstract/Structures_A.thy [hunk 7]
```diff
@@ -579,11 +577,12 @@ definition
   \<rparr>"
 
 record reply =
-  reply_tcb :: "obj_ref option"
-  reply_sc     :: "obj_ref option"
+  reply_tcb       :: "obj_ref option"
+  reply_sc        :: "obj_ref option"
+  reply_can_grant :: "bool"
```
Comment (michaelmcinerney) [inline spec/abstract/Structures_A.thy:592]: Nitpick: the quotation marks can be removed from the `bool`

File: spec/abstract/KHeap_A.thy [hunk 8]
```diff
@@ -223,9 +223,20 @@ abbreviation
   set_reply :: "obj_ref \<Rightarrow> reply \<Rightarrow> (unit,'z::state_ext) s_monad" where
   "set_reply \<equiv> set_simple_ko Reply"
 
+definition
+  update_reply :: "obj_ref \<Rightarrow> (reply \<Rightarrow> reply) \<Rightarrow> (unit,'z::state_ext) s_monad"
+where
+  "update_reply ptr f  \<equiv> do
+     obj \<leftarrow> get_object ptr;
+     case obj of Reply reply \<Rightarrow> set_object ptr (Reply (f reply)) | _ \<Rightarrow> fail
```
Comment (michaelmcinerney) [inline spec/abstract/KHeap_A.thy:320]: I haven't looked into the details in a while, but did we want to use `set_object`, or do we prefer `set_simple_ko`? I was thinking of making a similar "update" function for the endpoints and notifications, so maybe we should decide on the right pattern for this.

File: proof/crefine/RISCV64/SR_lemmas_C.thy [hunk 9]
```diff
@@ -1787,6 +1786,19 @@ lemma obj_at_cslift_sc:
   apply fastforce
   done
 
+lemma obj_at_cslift_reply:
```
Comment (michaelmcinerney) [inline proof/crefine/RISCV64/SR_lemmas_C.thy:1702]: I think Nick ended up adding this when he did the rules for `replyUnlink_ccorres` and `cancelIPC_ccorres`. So this is duplicated now, though I'm not sure where his rule ended up.

File: proof/invariant-abstract/AInvs.thy [hunk 10]
```diff
@@ -1886,6 +1887,10 @@ lemma check_budget_restart_schact_is_rct_imp_ct_activatable[wp]:
   "check_budget_restart \<lbrace>\<lambda>s. schact_is_rct s \<longrightarrow> ct_in_state activatable s\<rbrace>"
   by (wpsimp simp: check_budget_restart_def)
 
+lemma update_reply_schact_is_rct_imp_ct_activatable[wp]:
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/AInvs.thy:1939]: `update_reply` won't touch the scheduler action or the TCB heap, so with the right rules, this should be `crunch`able, and we won't need to unfold low-level things like `set_object` and `get_object`.

File: proof/invariant-abstract/ARM/ArchCSpace_AI.thy [hunk 11]
```diff
@@ -543,7 +543,7 @@ lemma is_cap_simps':
   "is_ntfn_cap cap = (\<exists>r b R. cap = cap.NotificationCap r b R)"
   "is_zombie cap = (\<exists>r b n. cap = cap.Zombie r b n)"
   "is_arch_cap cap = (\<exists>a. cap = cap.ArchObjectCap a)"
-  "is_reply_cap cap = (\<exists>x R. cap = cap.ReplyCap x R)"
+  "is_reply_cap cap = (\<exists>x. cap = cap.ReplyCap x)"
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/ARM/ArchCSpace_AI.thy:544]: While we're here, would a more informative name for the green variable `x` be nicer?

File: proof/invariant-abstract/KHeap_AI.thy [hunk 12]
```diff
@@ -2620,4 +2659,200 @@ lemma update_sched_context_no_fail[wp]:
   apply (clarsimp simp: obj_at_def a_type_def)
   done
 
+lemma update_reply_no_fail[wp]:
+  "no_fail (\<lambda>s. \<exists>reply. kheap s reply_ptr = Some (Reply reply)) (update_reply reply_ptr f)"
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/KHeap_AI.thy:2772]: Do we have a `reply_at` that we can or should use here?

File: proof/invariant-abstract/KHeap_AI.thy [hunk 13]
```diff
@@ -2620,4 +2659,200 @@ lemma update_sched_context_no_fail[wp]:
...
+lemma update_reply_fault_tcbs_valid_states[wp]:
+  "update_reply ref f \<lbrace>fault_tcbs_valid_states\<rbrace>"
+  apply (wpsimp simp: update_reply_def get_object_def)
+  done
+
+lemma update_reply_cur_tcb[wp]:
+  "update_reply ptr f \<lbrace>cur_tcb\<rbrace>"
+  by (wpsimp simp: update_reply_def set_object_def get_object_def cur_tcb_def tcb_at_def get_tcb_def)
+
+lemma update_reply_cur_sc_tcb[wp]:
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/KHeap_AI.thy:2967]: I wonder if we have crunches and things for `update_sched_context` for some of these easy invariants, in which case maybe we can just add `update_reply` to the list of functions which we crunch. Again thinking about this in case I/we add an `update_endpoint` or `update_ntfn`

File: proof/refine/ADT_H.thy [hunk 14]
```diff
@@ -156,13 +156,11 @@ fun CapabilityMap :: "capability \<Rightarrow> cap" where
...
-       apply (rule set_eqI, clarsimp)
-       apply (case_tac "x", simp_all)
       apply (rule set_eqI, clarsimp)
-      apply (case_tac "x", simp_all add: word_bits_def)
-     apply clarsimp
-     apply (simp add: set_eq_iff, rule allI)
-     apply (case_tac x; clarsimp)
+      apply (case_tac "x", simp_all)
+     apply (rule set_eqI, clarsimp)
+     apply (case_tac "x", simp_all add: word_bits_def)
```
Comment (michaelmcinerney) [inline proof/refine/ADT_H.thy:145]: Nitpick: unnecessary quotation marks

File: proof/refine/RISCV64/Ipc_R.thy [hunk 15]
```diff
@@ -2026,12 +2026,19 @@ crunch update_sk_obj_ref
...
 lemma update_sched_context_in_correct_ready_q[wp]:
   "update_sched_context ptr f \<lbrace>in_correct_ready_q\<rbrace>"
-  unfolding update_sched_context_def set_simple_ko_def get_simple_ko_def
+  unfolding update_sched_context_def
   apply (wpsimp wp: set_object_wp get_object_wp)
   apply (clarsimp simp: vs_all_heap_simps obj_at_kh_kheap_simps in_correct_ready_q_def)
   apply (fastforce simp: pred_map_def map_project_def opt_map_def tcbs_of_kh_def)
   done
 
+lemma update_reply_in_correct_ready_q[wp]:
```
Comment (michaelmcinerney) [inline proof/refine/RISCV64/Ipc_R.thy]: Maybe there was a lifting rule for `in_correct_ready_q` that can be used here, but I'm not sure

File: proof/refine/RISCV64/Ipc_R.thy [hunk 16]
```diff
@@ -5461,26 +5476,25 @@ lemma receiveIPC_corres:
...
-                                    apply (rule possibleSwitchTo_corres, simp)
-                                   apply (wpsimp wp: set_thread_state_valid_sched_action)
-                                  apply wpsimp
-                                 apply wpsimp
-                                apply wpsimp
-                               apply clarsimp
+                                    apply (rule corres_split[OF replyCanGrant_update_corres replyPush_corres])
+                                       apply simp
+                                      apply (clarsimp simp: fault_rel_optionation_def split: option.splits)
+                                     prefer 5 \<comment> \<open> defer wp until corres complete \<close>
```
Comment (michaelmcinerney) [inline proof/refine/RISCV64/Ipc_R.thy]: Could this `prefer` be done instead with a `match` of some kind? `match premisses` or whatever it is?

File: proof/refine/RISCV64/Reply_R.thy [hunk 17]
```diff
@@ -894,6 +894,16 @@ lemma updateReply_replyTCB_invs':
           split: option.split_asm)
    by (auto simp: obj_at'_def opt_map_def)
 
+lemma updateReply_replyCanGrant_invs'[wp]:
+  "updateReply rptr (replyCanGrant_update f) \<lbrace>invs'\<rbrace>"
+  apply (simp only: invs'_def valid_pspace'_def)
+  apply (wpsimp wp: updateReply_valid_objs' updateReply_iflive' updateReply_valid_replies' updateReply_list_refs_of_replies')
+  apply (clarsimp simp: valid_replies'_def2 valid_reply'_def live_reply'_def
+                  dest: pspace_alignedD' pspace_distinctD')
+  apply (erule delta_sym_refs)
```
Comment (michaelmcinerney) [inline proof/refine/RISCV64/Reply_R.thy:825]: I wonder if you could rewrite the `sym_refs` for `list_refs_of_reply'` into the `sym_heap` version we have, and then get this for free.

**Review by michaelmcinerney — APPROVED** [review]
I still don't know enough about caps to really comment on the design choices, but the proofs look good. Just some idle musings and nitpicks from me.

**Comment by lsf37** [comment]
I have rebased over current `rt` and conflicts resolved. AInvs and Refine should be working, I haven't applied any manual fixes to CRefine apart from the pure merge.
